US07037908B2
3-(2,6-Dimethoxy-phenyl)-5-ethoxycarbonylmethyl-2-methyl-2,5-dihydro-[1,2,4]oxadiazole-5-carboxylic acid ethyl ester.
To a stirred suspension of 2,6-dimethoxy-benzonitrile (0.82 g, 5 mmol) and N-methylhydroxylamine hydrochloride (1.66 g, 20 mmol) in 1:1 water/ethanol (20 mL) was added sodium carbonate (1.05 g, 10 mmol) in small portions and the resulting mixture stirred at 80° C. for 24 h. The reaction mixture was concentrated and the residue was re-dissolved into 1:1 water:ethanol (25 mL). To this solution was added diethyl acetylenedicarboxylate (0.96 mL, 6 mmol) and the resulting mixture stirred for 30 min at room temperature. The reaction mixture was then taken up in ethyl acetate (100 mL), washed successively with water and brine (50 mL each), dried (Na2SO4), filtered and concentrated to give a yellow oil. The crude product was purified on silica gel column (3:7 to 1:1 ethyl acetate/hexanes) to afford the title compound as a viscous yellow (1.5795 g, 83% yield). 1HNMR (500 MHz, CDCl3) δ: 7.32 (1H, t, J=8.24 Hz), 6.55 (2H, d, J=8.24 Hz), 4.38–4.24 (2H, m), 4.20–4.14 (2H, m), 3.80 (6H, s), 3.48 (1H, d, J=16.48 Hz), 3.03 (1H, d, J=16.48 Hz), 3.02 (3H, s), 1.33 (3H, t, J=7.02 Hz), 1.26 (3H, 7.02 Hz). HRMS (ESI) calcd for C18H25N2O7S (M+H): 381.1662; found: 381.1656.

reactant | 2,6-dimethoxy-benzonitrile | 5 mmol, 0.82 g | COC1=C(C#N)C(=CC=C1)OC | C9H9NO2
reactant | N-methylhydroxylamine hydrochloride | 20 mmol, 1.66 g | Cl.CNO
reactant | sodium carbonate | 10 mmol, 1.05 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | diethyl acetylenedicarboxylate | 6 mmol, 0.96 mL | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water ethanol | 20 mL | O.C(C)O
product | 3-(2,6-Dimethoxy-phenyl)-5-ethoxycarbonylmethyl-2-methyl-2,5-dihydro-[1,2,4]oxadiazole-5-carboxylic acid ethyl ester | 83% yield | C(C)OC(=O)C1(N=C(N(O1)C)C1=C(C=CC=C1OC)OC)CC(=O)OCC | C18H24N2O7
